US07981888B2
2-(4-bromobutoxy)naphthalene
This example was prepared by substituting 3-bromopropanol with 4-bromobutanol and substituting 1-naphthol with 2-naphthol in EXAMPLE 31A.

reactant | 4-bromobutanol | BrCCCCO | C4H9BrO
reactant | 2-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
product | 2-(4-bromobutoxy)naphthalene | BrCCCCOC1=CC2=CC=CC=C2C=C1 | C14H15BrO
